US04364948
b. 4-Chloro-1-ethyl-6-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester
A mixture of 49.1 g of 1-ethyl-6-methyl-4-hydroxy-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester (0.197 mole) and 250 ml of phosphorus oxychloride is refluxed for 4 hours. Then the excess phosphorus oxychloride is removed by vacuum distillation and the residue is treated with water. The 4-chloro compound (42 g) is filtered under suction and recrystallized from n-hexane, mp 54°-56° C.

reactant | 1-ethyl-6-methyl-4-hydroxy-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | 0.197 mole, 49.1 g | C(C)OC(=O)C=1C(=C2C(=NC1C)N(N=C2)CC)O | C12H15N3O3
reactant | phosphorus oxychloride | 250 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-1-ethyl-6-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=NC1C)N(N=C2)CC)Cl | C12H14ClN3O2
